US06548495B2
4-(3-Iodo-phenyl)-8-pyrrol-1-yl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from 3-(3-iodo-phenyl)-N-(2-nitro-4-pyrrol-1-yl-phenyl)-3-oxo-propionamide (Example M8) by reductive cyclization with SnCl2.2H2O in EtOH at 70° C. according to the general procedure J (method b). Obtained as an olive solid (624 mg).

reactant | 3-(3-iodo-phenyl)-N-(2-nitro-4-pyrrol-1-yl-phenyl)-3-oxo-propionamide | IC=1C=C(C=CC1)C(CC(=O)NC1=C(C=C(C=C1)N1C=CC=C1)[N+](=O)[O-])=O | C19H14IN3O4
reactant | SnCl2.2H2O | O.O.Cl[Sn]Cl
reactant | EtOH | CCO | C2H6O
product | 4-(3-Iodo-phenyl)-8-pyrrol-1-yl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | IC=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C=C2)N2C=CC=C2 | C19H14IN3O
